US04233307
A mixture of 1.7 g of 1-phenoxy-2,3-epoxypropane, 2 g of 1-methyl-2-oxo-indoline-3-spiro-4'-piperidine and 120 ml of ethanol was refluxed for 3 hours. The resulting mixture was concentrated and crystallized from diisopropylether to give 1'-(2-hydroxy-3-phenoxypropyl)-1-methyl-2-oxo-indoline-3-spiro-4'-piperidine

reactant | 1-phenoxy-2,3-epoxypropane | 1.7 g | O(C1=CC=CC=C1)CC1CO1 | C9H10O2
reactant | 1-methyl-2-oxo-indoline-3-spiro-4'-piperidine | 2 g | CN1C(C2(CCNCC2)C2=CC=CC=C12)=O | C13H16N2O
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | 1'-(2-hydroxy-3-phenoxypropyl)-1-methyl-2-oxo-indoline-3-spiro-4'-piperidine | OC(CN1CCC2(CC1)C(N(C1=CC=CC=C12)C)=O)COC1=CC=CC=C1 | C22H26N2O3
